US06906063B2
A. Synthesis of N-[(5-chloro(2-thienyl))sulfonyl](4-nitrophenyl)carboxamide
A 85 mg portion (0.43 mmol) of 5-chlorothiophenesulfonamide dissolved in 2 mL of acetone was treated with 110 μL of 4N NaOH (0.43 mmol) followed by addition of 80 mg (0.43 mmol) of 4-nitrobenzoyl chloride. After stirring for 12 h, the solution was acidfied 1N HCl and the precipitate was collected by filtration and dried. Recrystallization from EtOAc/hexane afforded 120 mg (81%) of the titled compound. ES-MS (M+H)+=347 (Cl).

reactant | 5-chlorothiophenesulfonamide | 0.43 mmol | ClC1=CC=C(S1)S(=O)(=O)N | C4H4ClNO2S2
reactant | NaOH | 0.43 mmol, 4N, 110 μL | [OH-].[Na+]
reactant | 4-nitrobenzoyl chloride | 0.43 mmol, 80 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | N-[(5-chloro(2-thienyl))sulfonyl](4-nitrophenyl)carboxamide | 120 mg, 81% | ClC1=CC=C(S1)S(=O)(=O)NC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C11H7ClN2O5S2
